US09403801B2
3-(8-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decan-2-yl)-3-oxopropanenitrile
To a solution of 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine (186 mg, 0.545 mmol), 2-cyanoacetic acid (48.4 mg, 0.569 mmol) in a mixture of DCM (32 mL) and DMF (8 mL) were added HATU (423.4 mg, 1.087 mmol) and Et3N (0.21 g, 2.075 mmol). After addition, the reaction mixture was stirred at rt for 2 h, quenched with H2O (30 mL) and extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the title compound as a beige solid (170 mg, 76.4%).

reactant | 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine | 0.545 mmol, 186 mg | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCNC2)CC1 | C18H27N7
reactant | 2-cyanoacetic acid | 0.569 mmol, 48.4 mg | C(#N)CC(=O)O | C3H3NO2
reactant | HATU | 1.087 mmol, 423.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 2.075 mmol, 0.21 g | CCN(CC)CC | C6H15N
solvent | DCM | 32 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-(8-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decan-2-yl)-3-oxopropanenitrile | 170 mg, 76.4% | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCN(C2)C(CC#N)=O)CC1 | C21H28N8O
